US05122523
(7) Tert-butyl 2-(2,3-ethylenedioxybenzyl)-3-hydroxypropionate
761 mg of tert-butyl (2,3-ethylenedioxybenzyl)malonate was dissolved in 20 ml of ethanol. Then, 0.57 g of sodium borohydride was added thereto, and the mixture was stirred at room temperature overnight. The reaction solution was diluted with 150 ml of ethyl acetate and washed with 100 ml of water and then with 100 ml of a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous magnesium sulfate, then concentrated under reduced pressure and purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to obtain 241 mg (yield: 36%) of the desired product as syrup.

reactant | tert-butyl (2,3-ethylenedioxybenzyl)malonate | 761 mg | C1OC2=C(CC(C(=O)OC(C)(C)C)C(=O)[O-])C=CC=C2OC1
reactant | sodium borohydride | 0.57 g | [BH4-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 2-(2,3-ethylenedioxybenzyl)-3-hydroxypropionate | 241 mg, yield: 36% | C1OC2=C(CC(C(=O)OC(C)(C)C)CO)C=CC=C2OC1 | C16H22O5
